US08067408B2
To a solution of N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-4-methyl-3-biphenylyl)methyl]-1,3-benzenedicarboxamide (100 mg, 0.15 mmol) in DCM (2 mL) was added 1-methyl piperazine (22.8 mg, 0.23 mmol), and AcOH (0.01 mL, 0.18 mmol) followed by NaBH(OAc)3 (64.3 mg, 0.30 mmol). The reaction mixture was stirred at RT overnight. The reaction was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were washed with brine and then concentrated under vacuum to give a crude residue. It was purified using a Gilson HPLC (with 0.1% TFA condition) eluting with 10 to 90% CH3CN in water at a flowrate of 20 mL/min. Fractions containing product were combined and then converted to the free base with saturated NaHCO3. The organic layer was dried over sodium sulfate, filtered and then concentrated to give N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({4-methyl-3′-[(4-methyl-1-piperazinyl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide as a white solid (33 mg, 29%). LC-MS m/z 744 (M+H)+.

reactant | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-4-methyl-3-biphenylyl)methyl]-1,3-benzenedicarboxamide | 0.15 mmol, 100 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C=CC2C)C2=CC(=CC=C2)C=O)CC | C39H42N6O4
reactant | 1-methyl piperazine | 0.23 mmol, 22.8 mg | CN1CCNCC1 | C5H12N2
reactant | AcOH | 0.18 mmol, 0.01 mL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.30 mmol, 64.3 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({4-methyl-3′-[(4-methyl-1-piperazinyl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide | 33 mg, 29% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C=CC2C)C2=CC(=CC=C2)CN2CCN(CC2)C)CC | C44H54N8O3
